US07754737B2
To a solution of 1-((1-tosylaziridin-2-yl)methyl)cyclohexanol (107 mg, 0.346 mmol) in MeOH (2 mL) was added satd aq ammonia (2 mL). The resulting solution was stirred at rt for 4 h and concentrated to give 1-(3-amino-2-(tosylamino)propyl)cyclohexanol which was used for the next step without purification. MS m/z 327 (M+H+).

reactant | 1-((1-tosylaziridin-2-yl)methyl)cyclohexanol | 0.346 mmol, 107 mg | S(=O)(=O)(C1=CC=C(C)C=C1)N1C(C1)CC1(CCCCC1)O | C16H23NO3S
reactant | ammonia | 2 mL | N | H3N
solvent | MeOH | 2 mL | CO | CH4O
product | 1-(3-amino-2-(tosylamino)propyl)cyclohexanol | NCC(CC1(CCCCC1)O)NS(=O)(=O)C1=CC=C(C)C=C1 | C16H26N2O3S
